US05773603
14.3 g of 6-chloro-9-β-D-ribofuranosyl-9H-purine and 15 g of triphenylchlorosilane were dissolved in 500 ml of pyridine and stirred for one hour at room temperature. Pyridine was distilled away and the residue was dissolved in benzene. The benzene layer was washed with 1N HCl and brine, and then dried over sodium sulfate anhydride. The solvent was distilled off and the residue was recrystallized from a mixture of hexane and ethyl acetate to give 21.5 g of 6-chloro--9-15-O-triphenylsilyl-β-D-ribofuranosyl)-9H-purine.

reactant | 6-chloro-9-β-D-ribofuranosyl-9H-purine | 14.3 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | triphenylchlorosilane | 15 g | C1(=CC=CC=C1)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 9H-purine | N1=CN=C2NC=NC2=C1 | C5H4N4
